US08476294B2
Stage A.4 6-Bromo-4-chloro-3-nitro-quinoline
6-Bromo-3-nitro-quinolin-4-ol (Fluorochem Ltd., Derbyshire, UK, 10 g, 37.2 mmol) was added to POCl3 (70 ml). The RM was stirred at 120° C. for 17 h. Then the RM was cooled with an ice-bath, before being slowly dropped onto ice-water. The precipitate was filtered and washed with cold water. The residue was dissolved in DCM, washed with brine, dried over Na2SO4, filtered and evaporated to give the title compound as a beige solid (HPLC tR 3.64 min (Method A))

reactant | 6-Bromo-3-nitro-quinolin-4-ol | 37.2 mmol, 10 g | BrC=1C=C2C(=C(C=NC2=CC1)[N+](=O)[O-])O | C9H5BrN2O3
reactant | POCl3 | 70 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 6-Bromo-4-chloro-3-nitro-quinoline | BrC=1C=C2C(=C(C=NC2=CC1)[N+](=O)[O-])Cl | C9H4BrClN2O2
